US07713994B2
(4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.42 g, 1.5 mmol) and C-(7-benzyloxy-2,2-dimethyl-benzo[1,3]dioxol-5-yl)-methylamine hydrochloride (1.5 mmol) were coupled in N,N-dimethylformamide (10 mL) with triethylamine (0.6 mL). The crude material is dissolved in a minimum of 7.5% methanol in chloroform and then passed through a Florisil plug, eluting with 5% methanol in chloroform. The filtrate is concentrated under reduced pressure to give (4Z)-6-bromo-4-({[(7-hydroxy-2,2-dimethyl-1,3-benzodioxol-5-yl)methyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione as a light pink powder.

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 1.5 mmol, 0.42 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | C-(7-benzyloxy-2,2-dimethyl-benzo[1,3]dioxol-5-yl)-methylamine hydrochloride | 1.5 mmol | Cl.C(C1=CC=CC=C1)OC1=CC(=CC2=C1OC(O2)(C)C)CN
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (4Z)-6-bromo-4-({[(7-hydroxy-2,2-dimethyl-1,3-benzodioxol-5-yl)methyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC2=C(OC(O2)(C)C)C(=C1)O | C20H17BrN2O5
